US06537948B1
2.6 g of 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol and 1.7 g of 4-benzyloxy-2-chloropyrimidine were dissolved in 20 ml of N,N-dimethylformamide, to this solution was added 1.07 g of potassium carbonate, and the mixture was stirred for 2 hours at 80° C. The reaction solution was cooled to room temperature, then, this reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with 10% aqueous sodium hydroxide solution, dried over anhydrous magnesium sulfate, and concentrated to obtain 1.6 g of 4-benzyloxy-2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyrimidine.

reactant | 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol | 2.6 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | 4-benzyloxy-2-chloropyrimidine | 1.7 g | C(C1=CC=CC=C1)OC1=NC(=NC=C1)Cl | C11H9ClN2O
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}pyrimidine | 1.6 g | C(C1=CC=CC=C1)OC1=NC(=NC=C1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C23H15ClF4N4O4
